US04557756
Preparation of N',N'-Dimethyl-3,3-Dimethyl-N-(M-Dimethylureido Phenyl)Glutaramide
N,N-Dimethyl-3,3-dimethyl glutaramic acid (2.6 grams) and 1.5 gram triethyl amine were mixed in 150 ml tetrahydrofuran. The mixture was stirred magnetically and cooled to -5° C. Methane sulfonyl chloride (1.7 gram) was added dropwise and stirred at -5° C. for one hour. 1-(3-amino phenyl)-3,3-dimethyl urea (2.49 grams) was dissolved in 35 ml tetrahydrofuran. This solution was added dropwise and stirred for one hour at -5° C. The cooling bath was then removed. When the reaction mixture reached room temperature it was concentrated by rotary evaporation. Methylene chloride (175 ml) was added and the mixture washed once with 10 percent w/w NaOH, twice with water and dried over sodium sulfate. Rotary evaporation yields 1.1 grams of the title compound. This compound will be referred to as compound No. 3.

reactant | N,N-Dimethyl-3,3-dimethyl glutaramic acid | 2.6 grams | CN(C(CC(CC(=O)O)(C)C)=O)C | C9H17NO3
reactant | triethyl amine | 1.5 gram | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonyl chloride | 1.7 gram | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(3-amino phenyl)-3,3-dimethyl urea | 2.49 grams | NC=1C=C(C=CC1)NC(=O)N(C)C | C9H13N3O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | N',N'-Dimethyl-3,3-Dimethyl-N-(M-Dimethylureido Phenyl)Glutaramide | 1.1 grams | CN(C(CC(CC(=O)NC1=CC(=CC=C1)NC(=O)N(C)C)(C)C)=O)C | C18H28N4O3
